US06235355B1
2-propyl-1,3-propanediol 5.2 g (44.0 mol) and 4(3,4,5-trifluoro phenyl) cyclohexanecarboaldehyde 10.5 g (43.3 mmol) were dissolved in toluene 100 ml, and PTS 1 g was added, and the mixture was refluxed with heating for 3 hours while removing water formed with Dien-Stark. The reactant was washed with a saturated sodium bicarbonate aqueous solution, and then with saturated sodium chloride aqueous solution, and dried over anhydrous magnesium sulfate, and the solvent was distilled off. The residue was recrystallized twice from heptane to obtain 5-propyl-2-(4-(3,4,5-trifluorophenyl)cyclohexyl-1,3-dioxane 2.0 g (5.8 mmol). The yield was 13% from 4-(3,4,5-trifluorophenyl)cyclohexane carboaldehyde.

reactant | 2-propyl-1,3-propanediol | 44.0 mol, 5.2 g | C(CC)C(CO)CO | C6H14O2
reactant | 4(3,4,5-trifluoro phenyl) cyclohexanecarboaldehyde | 43.3 mmol, 10.5 g | FC=1C=C(C=C(C1F)F)C1CCC(CC1)C=O | C13H13F3O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(3,4,5-trifluorophenyl)cyclohexyl-1,3-dioxane | 5.8 mmol, 2.0 g, yield was 13% | FC=1C=C(C=C(C1F)F)C1CCC(CC1)C1OCCCO1 | C16H19F3O2
